US07064123B1
A mixture of (S)-2-amino-1-(3-phenyl-[1,2,4]oxadiazol-5-yl)-butan-1-one, prepared as in Reference 11, 4-morpholin-4-yl-4-oxo-2-benzylsulfonylmethyl-butyric acid (200 mg, 0.56 mmol), EDC (200 mg, 1.05 mmol), HOBt (200 mg, 1.30 mmol), CH2Cl2 (4 mL) and 4-methylmorpholine (0.5 mL) was stirred at ambient temperature for 2 hours. After dilution with ethyl acetate (150 mL), the solution was washed with water (30 mL), saturated aqueous NaHCO3 solution and brine, dried with MgSO4 and evaporated under vacuum. The crude product was dissolved in dry dichloromethyl (10 mL) and 1,1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one (Dess-Martin periodinane) (500 mg, 1.2 mmol) was added. After stirring at ambient temperatures for 1 hour, the mixture was diluted with ethyl acetate (150 mL) and treated with Na2S2O3 solution (0.26M) in saturated aqueous NaHCO3. The organic phase was washed with saturated aqueous NaHCO3 and brine, dried with MgSO4 and evaporated. The product was purified by flash chromatography on silica gel (hexane/ethyl acetate in a 1:2 to 1:4 ratio) to yield 4-Morpholin-4-yl-4-oxo-2-benzylsulfonylmethyl-N-{-(S)-1[1-(3-phenyl-[1,2,4]oxadiazol-5-yl)-methanoyl]-propyl}-butyramide (150 mg) as mixture of diastereomers; 1H NMR: (DMSO), 9.03 (d, J=5.9 Hz), 8.89 (d, J=6.4 Hz), 1H], 8.09–8.03 (m, 2H), 7.66–7.55 (m, 3H), 7.42–7.33 (m, 5H), 4.97–4.78 (m, 1H), 4.53–4.35 (m, 2H), 3.58–3.02 (m, 1H), 2.65–2.50 (m, 2H), 2.06–1.90 (m, 1H), 1.83–1.66 (m, 1H), 0.97 (t, J=7.2 Hz, 3H); MS: (M++1) 569.

reactant | (S)-2-amino-1-(3-phenyl-[1,2,4]oxadiazol-5-yl)-butan-1-one | N[C@H](C(=O)C1=NC(=NO1)C1=CC=CC=C1)CC | C12H13N3O2
reactant | 4-morpholin-4-yl-4-oxo-2-benzylsulfonylmethyl-butyric acid | 0.56 mmol, 200 mg | N1(CCOCC1)C(CC(C(=O)O)CS(=O)(=O)CC1=CC=CC=C1)=O | C16H21NO6S
reactant | EDC | 1.05 mmol, 200 mg
reactant | HOBt | 1.30 mmol, 200 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-methylmorpholine | 0.5 mL | CN1CCOCC1 | C5H11NO
reactant | Dess-Martin periodinane | 1.2 mmol, 500 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Na2S2O3 | 0.26M | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 4-Morpholin-4-yl-4-oxo-2-benzylsulfonylmethyl-N-{-(S)-1[1-(3-phenyl-[1,2,4]oxadiazol-5-yl)-methanoyl]-propyl}-butyramide | 150 mg | N1(CCOCC1)C(CC(C(=O)N[C@@H](CC)C(=O)C1=NC(=NO1)C1=CC=CC=C1)CS(=O)(=O)CC1=CC=CC=C1)=O | C28H32N4O7S
